US07776874B2
Step 1. 1-(4-hydroxyphenyl)cyclopropanecarboxylic acid
A solution of 1-(4-methoxyphenyl)cyclopropanecarboxylic acid (0.70 g, 0.0036 mol) with 1.0 M of L-Selectride® in tetrahydrofuran (18 mL) was microwave irradiated at 120° C. for 2 hours. The completion of the reaction was achieved after LCMS indicated that the starting material was consumed. Then reaction mixture was acidified (pH=2) with concentrated HCl solution. The mixture was concentrated and the residue was diluted with water and stirred at rt to precipitate the white solid product, which was filtered and dried under vacuum to give the desired product. The structure was confirmed by 1H NMR.

reactant | 1-(4-methoxyphenyl)cyclopropanecarboxylic acid | 0.0036 mol, 0.70 g | COC1=CC=C(C=C1)C1(CC1)C(=O)O | C11H12O3
reactant | L-Selectride | 1.0 M | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
product | 1-(4-hydroxyphenyl)cyclopropanecarboxylic acid | OC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H10O3
